US04694004
A solution of 4-(phenoxycarbonylamino)pyridine (4.284 g), N-amino-1,2,3,6-tetrahydropyridine hydrochloride (4.038 g) and triethylamine (3.036 g) in chloroform (70 ml) was refluxed for 20 hours. After evaporation of chloroform, the residue was extracted with ethyl acetate (200 ml). The extract was washed with water, dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel (52 g) using chloroform to give N-[(4-pyridylcarbamoyl)amino]-1,2,3,6-tetrahydropyridine (2.005 g).

reactant | 4-(phenoxycarbonylamino)pyridine | 4.284 g | O(C1=CC=CC=C1)C(=O)NC1=CC=NC=C1 | C12H10N2O2
reactant | N-amino-1,2,3,6-tetrahydropyridine hydrochloride | 4.038 g | Cl.NN1CCC=CC1
reactant | triethylamine | 3.036 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 70 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[(4-pyridylcarbamoyl)amino]-1,2,3,6-tetrahydropyridine | 2.005 g | N1=CC=C(C=C1)NC(=O)NN1CCC=CC1 | C11H14N4O
